US08252820B2
F. 5-(7-Bromo-1-fluoro-3,6-dihydroxynaphthalen-2-yl)-1,1-dioxo-[1,2,5]thiadiazolidin-3-one
To a solution of 5-(3,6-bis-benzyloxy-7-bromo-1-fluoronaphthalen-2-yl)-1,1-dioxo-[1,2,5]thiadiazolidin-3-one (232 mg, 0.406 mmol) in CH2Cl2 (3 mL) at 0° C. under nitrogen is added BBr3 (0.731 mL, 0.731 mmol). The reaction is stirred at 0° C. for 5 min then the mixture is quenched with 1N HCl (50 mL) and is extracted 3 times with EtOAc, dried over Na2SO4 and washed with brine. The organic layer is concentrated under reduced pressure and purified on reverse phase HPLC using a gradient of 10-20% MeCN/water (0.1% TFA).

reactant | 5-(3,6-bis-benzyloxy-7-bromo-1-fluoronaphthalen-2-yl)-1,1-dioxo-[1,2,5]thiadiazolidin-3-one | 0.406 mmol, 232 mg | C(C1=CC=CC=C1)OC=1C(=C(C2=CC(=C(C=C2C1)OCC1=CC=CC=C1)Br)F)N1CC(NS1(=O)=O)=O | C26H20BrFN2O5S
reactant | BBr3 | 0.731 mmol, 0.731 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-(7-Bromo-1-fluoro-3,6-dihydroxynaphthalen-2-yl)-1,1-dioxo-[1,2,5]thiadiazolidin-3-one | BrC1=C(C=C2C=C(C(=C(C2=C1)F)N1CC(NS1(=O)=O)=O)O)O | C12H8BrFN2O5S
